US08003800B2
To an ice-cooled solution of 4-hydroxy-3,5-dimethyl-benzoic acid methyl ester (7.52 g, 41.7 mmol) in DCM (250 mL) and pyridine (10 mL), trifluoromethanesulfonic acid anhydride (13.0 g, 45.9 mmol) is added over a period of 20 min. Upon complete addition, the ice bath is removed and the reaction is stirred for further 1 h at rt. The mixture is diluted with DCM (150 mL), washed with 10% aq. citric acid solution followed by brine, dried over MgSO4, filtered and evaporated. The residue is purified by flash chromatography on silica gel eluting with heptane:EA 9:1 to give 3,5-dimethyl-4-trifluoromethanesulfonyloxy-benzoic acid methyl ester (11.8 g) as colourless fine needles; LC-MS: tR=1.08 min.

reactant | 4-hydroxy-3,5-dimethyl-benzoic acid methyl ester | 41.7 mmol, 7.52 g | COC(C1=CC(=C(C(=C1)C)O)C)=O | C10H12O3
reactant | trifluoromethanesulfonic acid anhydride | 45.9 mmol, 13.0 g | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
solvent | DCM | 250 mL | C(Cl)Cl | CH2Cl2
solvent | pyridine | 10 mL | N1=CC=CC=C1 | C5H5N
product | 3,5-dimethyl-4-trifluoromethanesulfonyloxy-benzoic acid methyl ester | 11.8 g | COC(C1=CC(=C(C(=C1)C)OS(=O)(=O)C(F)(F)F)C)=O | C11H11F3O5S
